Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Confusion, lightheadedness 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This is a very pleasant ___ right handed woman with a history 
of
heart murmur, well controlled hypertension and hyperlipidemia,
osteoporosis and a pancreatic cyst who presents to the ED as a
referral from her PCP following some new symptoms noted today.
She provides an excellent history. 

She has been eating less lately due to passover. She had a small
piece of Matzah this morning before going to work out and lift
weights (she works out several times a week, either aerobic
exercises or light weight lifting). She lifted some weights 
today
between 8 and 8:30 but does not recall overdoing it or any neck
strain. She was chatting with a colleague at around ___ when all
of a sudden, she felt very ligtheaded and "dizzy and
disoriented". She is not able to describe further with much
clarity. She denies any vertigo or pulsion. She did not have any
abnormal visual phenomenon or faint or fall over. There were no
twitching or jerking movements. She did not have any double
vision or headache. The episode lasted about 2 minutes, and she
reports that it was clear that her colleague didn't recognize
that anything was wrong. She excused herself and just felt 
"off".
She was able to walk to the car and then drive to her friend's
place for a walking date. There, her friend did not notice
anything overtly wrong, but did ask her to touch base with her
PCP. She finally did go to her PCP's office, and saw the NP and
PCP and both referred her to the ED for concern for "TIA". 

At this time, she still feels "cognitively confused". She denies
any recent significant psychosocial stressors. She reports that
her memory is usually quite sharp: she works as a ___
and never has to take any notes because her memory is perfect.
She was noted to be significantly hypertensive to 208/80 in
triage - this has since improved without medication down to the
150-160s SBP. Her friend was with her today in the ED. 

On general review of systems, the pt denies recent fever or
chills. Denies cough, shortness of breath. Denies chest pain or
tightness, palpitations. Denies nausea, vomiting, diarrhea,
constipation or abdominal pain. No recent change in bowel or
bladder habits. No dysuria. Denies arthralgias or myalgias.
Denies rash.  

Neurological Review of Systems: Negative for asymmetric 
weakness,
numbness, diplopia, dysarthria, dysphagia, tongue numbness,
change in taste, loss of consciousness, jerking/twitching
episodes. No pins/needles sensations, numbness. Negative for
problems with blurry vision or loss of vision.  

 
Past Medical History:
- Hypertension: "VERY well controlled", with report of BPs 
always
in the 130/80s range on serial PCP ___.  
- Hyperlipidemia 
- Osteoporosis on Ca/MVI supplementation 
- Thyroid nodule 
- Pancreatic cyst: see notes from GI service, incidentally
discovered when looking for source of abdominal pain. Looks to
have had an EUS guided biopsy/aspiration of fluid in the past
that was acellular. Currently believed to be a benign lesion. Is
scheduled for follow up MR/MRCP. 
- TAHBSO 
- T/A 
- Appendectomy 
- Heart murmur: Last echo in ___ showed "The left atrium is
normal in size. There is mild symmetric left ventricular
hypertrophy. The left ventricular cavity size is normal. Due to
suboptimal technical quality, a focal wall motion abnormality
cannot be fully excluded. Overall left ventricular systolic
function is normal (LVEF 60%). No masses or thrombi are seen in
the left ventricle. There is no ventricular septal defect. Right
ventricular chamber size and free wall motion are normal. There
are focal calcifications in the aortic arch. The aortic valve
leaflets (3) are mildly thickened but aortic stenosis is not
present. No aortic regurgitation is seen. The mitral valve
leaflets are mildly thickened. There is no mitral valve 
prolapse.
Trivial mitral regurgitation is seen. The estimated pulmonary
artery systolic pressure is normal. There is no pericardial
effusion." 

 
Social History:
___
Family History:
Father with stroke, who ultimately succumbed to
the stroke.
 
Physical Exam:
On physical examination, vital signs in triage initially were
97.8, 72, 208/80, 18, 99%. During my interview, her BP hovered 
in
the 150-160/70s range. In general, patient is awake, 
cooperative,
pleasant and in no apparent distress. The patient had a NCAT 
head
without conjunctival icterus. Mucous membranes were moist and
oropharynx is clear of lesions. Neck was supple without masses 
or
thyromegaly. Chest examination revealed regular heart sounds a
systolic murmur heard best in the RUSB and LUSB, and lungs were
clear to auscultation bilaterally. Belly was soft without focal
tenderness, and extremities were warm and well perfused. Skin
examination multiple depigmented and hyperpigmented spots over
face and back consistent with sun damage, also with multiple
nevi. 

Neurologically, the patient is awake, alert and oriented x 3.
Able to relate history without difficulty. Attentive, able to
name ___ backward without difficulty. She was able to accurately
tell me her home phone number and her street address. She paid
attention to the examiner and followed complex commands. 
Language
is fluent with intact repetition and comprehension. Reads well.
Copies complex 2d objects without difficulty. Calculates
normally. NO right/left confusion. Normal prosody. There were no
paraphasic errors. Pt. was able to name both high and low
frequency objects. Able to read without difficulty. Speech was
not dysarthric. Able to follow both midline and appendicular
commands. Pt. was able to register 3 objects and recall ___ at 5
minutes ("you gave me three objects to remember?"). She
attributed her memory problems to anxiety. Episodic memory was
better when provided a long sentence of facts. She could recall
four out of five facts in "My sister lives in ___ and
works as an ___. Her husband is a ___ and together
they ___ ___". She could recall the name of the President
but not the vice president or speaker. There was no evidence of
apraxia or neglect.  

Cranial nerve examination revealed round, equal and reactive
pupils with full visual fields to confrontation. Visual acuity
was grossly intact. Extraocular movements were full without
dysconjugate gaze, nystagmus or diplopia per report. There was 
no
facial asymmetry, ptosis or facial droop. Hearing is intact
grossly. Facial sensation was intact to light touch and pinprick
bilaterally. Palate elevates symmetrically, and the strength of
trapezii and SCMs was ___ bilaterally. Tongue was strong
bilaterally without atrophy or fasiculations.  

Strength examination showed normal bulk, tone throughout. No
pronator drift bilaterally. No adventitious movements, such as
tremor, noted. No asterixis noted.  
 Delt Bic Tri WrE FFl FE  IP Quad Ham TA ___   
L 5    5    ___   ___   5   5    5     5    
R 5    5    ___   ___   5   5    5     5  

The sensory examination revealed no deficits to light touch,
pinprick. Vibration at great toes was slightly impaired at 8s
bilaterally. 

The reflex examination revealed:  
   Bi Tri ___ Pat Ach  
L  2   2    2     2  2  
R  2   2    2     2  2  
Plantar response: Down 

Bedside tests of cerebellar function revealed no intention
tremor, dysdiadochokinesia or dysmetria. Gait was narrow based
and steady without truncal ataxia. Tandem gait was normal. 
Romberg was negative. 

DISCHARGE PHYSICAL EXAM:
VSS
Neuro: AAOx3, EOMI, PERRL, able to recall ___ objects from 
initial admission exam without prompting (recalled remaining ___ 
objects with prompting). Able to recall visuospatial orientation 
of ED room objects. CN exam non-focal.
 
Pertinent Results:
ADMISSION LABS:
___ 03:29PM BLOOD WBC-8.8 RBC-4.78 Hgb-13.9 Hct-43.4 MCV-91 
MCH-29.1 MCHC-32.0 RDW-13.1 Plt ___
___ 03:29PM BLOOD Neuts-70.0 ___ Monos-4.2 Eos-0.3 
Baso-0.9
___ 03:29PM BLOOD Glucose-92 UreaN-18 Creat-0.8 Na-139 
K-4.1 Cl-98 HCO3-31 AnGap-14
___ 09:00PM BLOOD ALT-18 AST-28 LD(LDH)-155 CK(CPK)-76 
AlkPhos-44 TotBili-0.3
___ 09:00PM BLOOD CK-MB-3 cTropnT-<0.01
___ 09:00PM BLOOD %HbA1c-6.1* eAG-128*
___ 09:00PM BLOOD HDL-96 CHOL/HD-2.0 LDLmeas-89
___ 03:29PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

___ 05:30PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.0 Leuks-MOD
___ 05:30PM URINE RBC-<1 WBC-9* Bacteri-FEW Yeast-NONE 
Epi-<1 TransE-<1
___ 05:30PM URINE CastHy-1*
___ 05:30PM URINE Mucous-RARE
___ 05:30PM URINE Color-Straw Appear-Clear Sp ___

___ 05:30PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG

IMAGING:
CT HEAD ___: FINDINGS: 
There is no evidence of acute intracranial hemorrhage, mass 
effect, shift of the normally midline structures or vascular 
territory infarct.  Gray-white matter differentiation is 
preserved throughout.  Ventricles and sulci are enlarged 
consistent with age related global atrophy.  Periventricular 
white matter hypodensities are consistent with a sequelae of 
chronic small vessel ischemic disease.  Mastoid air cells are 
well aerated.  Paranasal sinuses are well aerated.  No osseous 
or soft tissue abnormalities.     
IMPRESSION: 
No evidence of acute intracranial process.   

MRI and MRA of the brain and MRA of the neck, ___:
CLINICAL INDICATION:  New onset of lightheadedness and memory 
difficulties, stroke protocol, evaluate focus of mesial temporal 
lobe and ischemia. 
COMPARISON:  Head CT dated ___. 
TECHNIQUE:  Sagittal T1, axial T2, axial FLAIR, axial magnetic 
susceptibility and axial diffusion-weighted images were obtained 
through the brain. 
3D time arteriography of the head was obtained, axial source 
images on maximum intensity projection images were reviewed. 
After the administration of gadolinium contrast, bolus tracking 
sequences were obtained throughout the neck vessels, coronal 
source images and multiplanar reconstructions were reviewed. 
  
FINDINGS:  MRI OF THE HEAD:  There is no evidence of 
intracranial hemorrhage, mass, mass effect or shifting of the 
normally midline structures.  The ventricles and sulci are 
slightly prominent, possibly age-related and involutional in 
nature.  No diffusion abnormalities are detected.  There is no 
evidence of focal lesions to indicate chronic ischemic changes.  
The major vascular flow voids are present and demonstrate normal 
distribution.  The orbits are unremarkable, the paranasal 
sinuses and the mastoid air cells are clear. 
IMPRESSION:  There is no evidence of acute or subacute 
intracranial process.  Slightly prominent ventricles and sulci, 
possibly age-related and involutional in nature and suggesting 
mild cortical volume loss. 
MRA OF THE HEAD: 
There is evidence of vascular flow in both internal carotid 
arteries as well as the vertebrobasilar system, no flow stenotic 
lesions or aneurysms larger than 3 mm in size are seen.  The 
posterior circulation demonstrates patency in both vertebral 
arteries with dominance of the left vertebral artery.  The 
anterior, middle and posterior cerebral arteries are patent, the 
left posterior communicating artery appears patent with 
hypoplasia of the P1 segment on the right, consistent with 
anatomical vascular variation. 
IMPRESSION:  Essentially normal MRA of the head with no evidence 
of flow 
stenotic lesions or aneurysms larger than 3 mm in size. 
MRA OF THE NECK: 
The origin of the supra-aortic vessels appears normal, the 
common carotid 
arteries are patent, the carotid cervical bifurcations are 
normal with no 
evidence of flow stenotic lesions.  The course of the internal 
carotid 
arteries appears normal. 
The origin of both vertebral arteries appear patent with mild 
tortuosity 
bilaterally, no flow stenotic lesions are visualized. 
IMPRESSION:  Mild tortuosity of the vertebral arteries 
bilaterally with no evidence of flow stenotic lesions. The 
cervical carotid bifurcations are widely patent.
 
Brief Hospital Course:
Ms. ___ was admitted to ___ on ___ after presenting to the 
ED as above. Initial CT scan obtained in the ED was negative for 
acute intracranial process. Her active hospital issues, by 
system, are summarized as follows:

1) Neuro: Presented with symptoms of transient global amnesia in 
setting of hypertensive urgency and baseline anxiety. Rapidly 
improved to baseline mental status. CT scan without acute 
intracranial process. MRI/MRA within normal limits as well (see 
above). Given constellation of rapidly improving exam and 
hypertensive urgency, patient was diagnosed with hypertensive 
encephalopathy. Other etiologies, including PRESS and epileptic 
activity considered, but deemed unlikely upon review of imaging. 
Patient scheduled for outpatient follow-up with Dr. ___ on 
___. No medication adjustments made.

2) CV: Presented with hypertensive urgency, characterized by 
systolic pressure of 208 in ED. Rapdily improved to normal 
ranges without intervention. Hypertensive urgency likely lead to 
hypertensive encephalopathy as above. Continued home 
anti-hypertensives on admission to floor; no further episodes of 
HTN urgency.

3) ID: UA in ED with mild pyuria and bacteriura. While this may 
have represented asymptomatic bacteriuria, decision was made to 
treat given possibility UTI may have been contributing to AMS. 
Regardless, UTI very unlikely to be sole contributor to AMS, as 
she improved rapidly prior to initiation of antibiotics. Other 
explanations more likely, as above. Discharged with prescription 
for 3 days of Bactrim DS.

TRANSITIONAL ISSUES:
- Neuro f/u with Dr. ___ on ___.
- EEG deferred, though should be considered if symptoms recur.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Hydrochlorothiazide 25 mg PO DAILY 
Hold for sBP <90, HR <60 
2. Temazepam 30 mg PO HS:PRN insomnia/anxiety 
Hold for sedation. 
3. Simvastatin 40 mg PO DAILY 
4. Ascorbic Acid ___ mg PO DAILY 
5. Calcium Carbonate 500 mg PO DAILY 
6. Fish Oil (Omega 3) 1000 mg PO BID 
7. Multivitamins 1 TAB PO DAILY 

 
Discharge Medications:
1. Ascorbic Acid ___ mg PO DAILY 
2. Calcium Carbonate 500 mg PO DAILY 
3. Multivitamins 1 TAB PO DAILY 
4. Simvastatin 40 mg PO DAILY 
5. Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 3 Days 
Total of 3 days. 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 tablet(s) by 
mouth twice a day Disp #*5 Tablet Refills:*0
6. Fish Oil (Omega 3) 1000 mg PO BID 
7. Hydrochlorothiazide 25 mg PO DAILY 
8. Temazepam 30 mg PO HS:PRN insomnia/anxiety 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
- transient global amnesia
- altered mental status without acute delirium
- hypertensive urgency

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

Thank you for choosing ___ for your medical care. You were 
admitted for transient neurologic symptoms, which were initially 
concerning for a stroke. You had several studies, including a CT 
scan and MRI/MRA of your head and neck. These studies proved you 
did not have a stroke. Your symptoms are most likely related to 
anxiety, high blood pressure, or perhaps a combination of these.

You should follow-up in the neurology clinic in the next few 
months to assess for any further need for neurological 
intervention.
 
Followup Instructions:
___